US06861428B2
1) Preparation of ethyl 2,6-dichlorocinnamate
To a solution of 2,6-dichlorobenzaldehyde (350 mg, 2.0 mmol) and triethyl phosphonoacetate (448 mg, 2.6 mmol) in THF (5 mL), potassium tert-butoxide (291 mg, 2.6 mmol) was added under ice cooling, and at the same temperature, the mixture was stirred for 2 hours. A saturated aqueous solution of ammonium chloride was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. Further, the residue was purified by chromatography on a silica gel column (hexane/ethyl acetate=50/1) to yield the title compound as a colorless syrupy substance (yield: 65.1%).

reactant | 2,6-dichlorobenzaldehyde | 2.0 mmol, 350 mg | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | potassium tert-butoxide | 2.6 mmol, 291 mg | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 2,6-dichlorocinnamate | yield: 65.1% | ClC1=C(C=CC(=O)OCC)C(=CC=C1)Cl | C11H10Cl2O2
